US03956357
Following the procedure of Example 5 omitting the 0.25 parts of piperidine and 0.025 parts of hydroquinone and adding 9.6 parts of the formalin, piperidine and acetic acid solution in place of the 8.6 parts of Example 5 over 151/4 hours gave 6.8 parts of ethyl 2-cyanopropionate of boiling point 82-90°C/8 mm. of mercury.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | formalin | C=O | CH2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 2-cyanopropionate | C(#N)C(C(=O)OCC)C | C6H9NO2
